US06255489B1
N-(2-Tolyl )hydroxylamine
41.1 g (0.3 mol) of o-nitrotoluene in 600 ml of toluene were initially taken with 5.1 g of active carbon, with stirring, in a 1.5 l hydrogenation flask having a gas inlet tube. After cooling to about 5-8° C., 67.4 g (1.1 mol) of n-propylamine and 3 g of platinum on carbon (5%) (CF 105 XRS from Degussa) were added and the reaction vessel was flushed at 5° C. with nitrogen and then with hydrogen. The hydrogenation was carried out at a constant hydrogen pressure of 100 mbar gauge pressure. According to HPLC analysis, the reaction was complete after 100 minutes.

reactant | o-nitrotoluene | 0.3 mol, 41.1 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | n-propylamine | 1.1 mol, 67.4 g | C(CC)N | C3H9N
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 3 g | [Pt] | Pt
product | N-(2-Tolyl )hydroxylamine | C1(=C(C=CC=C1)NO)C | C7H9NO
